US07776920B2
2,4-Dibenzyloxy-6-ethylbenzohydrazide
An analogous preparation procedure also gives 2,4-dibenzyloxy-6-chlorobenzohydrazide: yield 61%, m.p. 166-1670, and 4-benzyloxy-3-chloro-2-ethylbenzohydrazide: yield 85%, m.p. 182-1840.

reactant | 2,4-dibenzyloxy-6-chlorobenzohydrazide | C(C1=CC=CC=C1)OC1=C(C(=O)NN)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C21H19ClN2O3
reactant | 4-benzyloxy-3-chloro-2-ethylbenzohydrazide | C(C1=CC=CC=C1)OC1=C(C(=C(C(=O)NN)C=C1)CC)Cl | C16H17ClN2O2
product | 2,4-Dibenzyloxy-6-ethylbenzohydrazide | C(C1=CC=CC=C1)OC1=C(C(=O)NN)C(=CC(=C1)OCC1=CC=CC=C1)CC | C23H24N2O3
